US04861769
A mixture of silver salt of (Z)-2-(3-pyridyl)ethenethiol (2.03 g) and sodium iodide (3.36 g) in acetonitrile (40 ml) was stirred for 20 minutes at 0° C. in the dark. To the mixture was added benzhydryl 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate (syn isomer) (2.03 g) at -20° C., and the mixture was stirred at 0° C. for 1.5 hours. The mixture was poured into a mixture of saturated aqueous solution of sodium chloride (200 ml) and ethyl acetate (100 ml). The insoluble material was filtered off and the organic layer was separated. The organic layer was washed with saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The residue was triturated with diethyl ether to give benzhydryl 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate (syn isomer) (1.41 g).

reactant | (Z)-2-(3-pyridyl)ethenethiol | 2.03 g | N1=CC(=CC=C1)\C=C/S | C7H7NS
reactant | sodium iodide | 3.36 g | [I-].[Na+]
reactant | benzhydryl 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-chloromethyl-3-cephem-4-carboxylate | 2.03 g | C1(CC1)ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C30H26ClN5O6S2
reactant | sodium chloride | 200 ml | [Cl-].[Na+]
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
catalyst | silver | [Ag] | Ag
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate | 1.41 g | C1(CC1)ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CS\C=C/C=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C37H32N6O6S3
